Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Asymptomatic with mitral regurgitation and coronary artery 
disease
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass graft x 3, Mitral valve repair
 
History of Present Illness:
___ year old male with history of TIA, atrial fibrillation, sleep 
apnea, hypertension and hyperlipidemia who underwent cardiac 
evaluation for pre-operative clearance prior to hernia surgery. 
He admits to mild chest tightness with heavy exertion. He 
otherwise denies symptoms of frank chest pain, palpitations, 
dyspnea, fatigue, edema or syncope. Cardiac catheterization 
revealed severe three vessel coronary artery disease. Presents 
today to complete pre-op evaluation and for heparin bridge after 
stopping Xarelto in preparation for surgery tomorrow.
 
Past Medical History:
Coronary Artery Disease
Mitral Regurgitation
Atrial Fibrillation, on Xarelto
History of TIA ___
Sleep apnea
Hypertension
Hyperlipidemia
Umbilical Hernia
Varicose Veins - right leg
s/p Wisdom teeth removal
s/p rhinoplasty from nose fracture
 
Social History:
___
Family History:
Mother with CAD s/p CABG in her late ___
 
Physical Exam:
BP:  164/72  Pulse: 97   Resp: 16   O2 sat: 99% room air
Height: 72 inches   Weight: 290 lbs

General: resting in bed- slightly anxious regarding surgery. 
HEENT: Warm [x] Dry [x] intact [x]
HEENT: [x] PERRL [x] EOMI [x]
Neck: Supple [x] Full ROM [x] no JVD 
Chest: Lungs clear bilaterally ]
Heart: RRR [] Irregular [X] Murmur ] grade ___ systolic murmur 
best heard along LLSB
Abdomen: Obese, Soft [x] non-distended [x] non-tender [x] bowel
sounds + [x], small umbilical hernia noted
Extremities: Warm [x], well-perfused [x]. 12" superficial 
Scratch noted on left forearm.
Edema: None
Varicosities: RLE with varicosities and chronic venous stasis 
changes, LLE without varicosities.
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2  Left: 2
DP           Right: palp  Left: palp 
___           Right: palp   Left: palp 
Radial       Right: 2  Left: 2
Carotid Bruit -        Right: none   Left: none
 
Pertinent Results:
Carotid U/S ___: Minimal plaque with bilateral less than 40% 
carotid stenosis.
.
Echo ___: PRE-BYPASS: The left atrium is moderately dilated. 
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium or left atrial appendage. At least one pulmonary 
vein may be entering the right atrium. No atrial septal defect 
is seen by 2D or color Doppler. Left ventricular wall 
thicknesses and cavity size are normal. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Right ventricular chamber size and free wall motion are 
normal. The ascending aorta is mildly dilated. There are simple 
atheroma in the ascending aorta. The descending thoracic aorta 
is mildly dilated. There are simple atheroma in the descending 
thoracic aorta. There are three aortic valve leaflets. The 
aortic valve leaflets (3) are mildly thickened. There is no 
aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are moderately thickened. There is 
moderate thickening of the mitral valve chordae. Moderate (2+) 
mitral regurgitation is seen. There is no pericardial effusion. 
Post-bypass: The patient is in SR and on a phenylephrine gtt. 
Biventricular systolic function remains unchanged. Trangastric 
windows remain poor. Of note there is a small echodensity 
visible in the left atrial appendage that may represent clot. A 
mitral ring annuloplasty is seen without significant mitral 
regurgitation. There is a dynamic component to the exam, notably 
when the patient is around an SBP of 80 systolic there is mild 
___ with resulting eccentric MR. ___ fluid loading and using 
more phenylephrine the MR disappears and there is no significant 
___. The peak and mean gradients across the mitral valve are 5 
and 2mmHg respectively. Tricuspid regurgitation remains 
unchanged. The aorta is intact post decannulation.

Admission Labs:
___ WBC-7.1 RBC-5.03 Hgb-15.1 Hct-41.9 MCV-83 MCH-30.0 
MCHC-36.0 RDW-12.3 RDWSD-37.3 Plt ___
___ Neuts-82.5* Lymphs-15.1* Monos-1.5* Eos-0.2* Baso-0.1 
Im ___ AbsNeut-7.33* AbsLymp-1.34 AbsMono-0.13* 
AbsEos-0.02* AbsBaso-0.01
___ ___ PTT-30.5 ___
___ Glucose-95 UreaN-21* Creat-1.0 Na-140 K-4.9 Cl-101 
HCO3-27 
___ ALT-29 AST-28 AlkPhos-70 Amylase-82 TotBili-1.3
___ Lipase-56
___ Mg-2.1
___ %HbA1c-6.2* eAG-131*

Micro: MRSA SCREEN (Final ___:    No MRSA isolated. 
.
Chest Film: ___
Unchanged retrocardiac atelectasis, potentially 
combines to a minimal left pleural effusion.  The pre-existing 
atelectasis at the right lung bases has substantially improved.  
Moderate cardiomegaly 
persists.  No pulmonary edema.  The alignment of the sternal 
wires is stable.  The right venous introduction sheet was 
removed. 
.

___ 06:15AM BLOOD WBC-11.6* RBC-3.85* Hgb-11.6* Hct-34.5* 
MCV-90 MCH-30.1 MCHC-33.6 RDW-12.6 RDWSD-40.7 Plt ___
___ 08:15AM BLOOD WBC-11.4* RBC-3.76* Hgb-11.4* Hct-34.0* 
MCV-90 MCH-30.3 MCHC-33.5 RDW-12.7 RDWSD-41.9 Plt ___
___ 09:30AM BLOOD ___ PTT-26.1 ___
___ 06:15AM BLOOD ___ PTT-27.3 ___
___ 10:30AM BLOOD ___ PTT-28.5 ___
___ 03:30PM BLOOD ___ PTT-29.2 ___
___ 02:19PM BLOOD ___ PTT-28.5 ___
___ 05:10PM BLOOD ___ PTT-30.5 ___
___ 07:10AM BLOOD Glucose-113* UreaN-27* Creat-0.9 Na-137 
K-4.3 Cl-99 HCO3-29 AnGap-13
___ 06:15AM BLOOD Glucose-113* UreaN-24* Creat-0.9 Na-137 
K-4.1 Cl-102 HCO3-28 AnGap-11
___ 07:10AM BLOOD Mg-2.1
 
Brief Hospital Course:
Mr. ___ was admitted the day before surgery for Heparin 
bridge prior to planned cardiac surgery. On ___ he was brought 
to the operating room where he underwent a 1. Coronary artery 
bypass grafting x3, left internal mammary artery graft to left 
anterior descending, reverse saphenous vein graft to the 
marginal branch of the posterior descending artery. 2. Mitral 
valve repair with a 30 ___ annuloplasty band. 
Cardiopulmonary bypass time was 104 minutes, Cross-clamp time 86 
minutes. Following surgery he was transferred to the CVICU for 
invasive monitoring in stable condition. Later that day he was 
weaned from sedation, awoke neurologically intact and extubated. 
He was weaned from inotropic and vasopressor support. Low dose 
Beta blocker was initiated. He remained hemodynamically stable 
and was transferred to the telemetry floor for further recovery. 
Rhythm was rate controlled AFib. Anticoagulation was started 
with Warfarin (on Xarelto pre-op).  Gentle diuresis continued. 
He was seen by physical therapy for strength and motility.  He 
continued to make steady progress and was discharged to home 
with ___ on POD 4.  Dr. ___ will manage ___. 
 

 
Medications on Admission:
ATORVASTATIN 40 mg daily
hydrochlorothiazide 12.5 mg BID
Losartan 50 mg daily
Xarelto 20 mg daily- stopped 5 days ago
ASA 81 mg  daily
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Metoprolol Tartrate 12.5 mg PO TID 
RX *metoprolol tartrate 25 mg 0.5 (One half) tablet(s) by mouth 
three times a day Disp #*60 Tablet Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
6. Furosemide 40 mg PO DAILY Duration: 10 Days 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0
7. Warfarin 2 mg PO DAILY16 
dose to change daily per Dr. ___ goal INR ___, dx: Afib 
RX *warfarin 2 mg ___ tablet(s) by mouth daily as directed Disp 
#*60 Tablet Refills:*1
8. Hydrochlorothiazide 12.5 mg PO BID 
resume after 10 day course of Furosemide 
9. Potassium Chloride 20 mEq PO DAILY Duration: 10 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*10 Tablet Refills:*0
10. Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease s/p Coronary artery bypass graft x ___
Mitral regurgitation s/p Mitral valve repair
Past medical history:
Atrial Fibrillation, on Xarelto
History of TIA ___
Sleep apnea
Hypertension
Hyperlipidemia
Umbilical Hernia
Varicose Veins - right leg
 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating with steady gait
Incisional pain managed with oxycodone
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage
staples to be discontinued at wound check ___
Edema- 1+

 
Discharge Instructions:
Shower daily including washing incisions gently with mild soap, 
no baths or swimming until cleared by surgeon. Look at your 
incisions daily for redness or drainage
NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___